US07378418B2
Preparation of 7-(4-Chlorophenyl)-2-((6-chloropyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
To a solution of 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one (150 mg, 0.46 mmol), prepared as described in Example 244, in DMF (3 mL) was added K2CO3 (80 mg, 0.58 mmol) and 2-chloro-5-(chloromethyl)pyridine (90 mg, 0.556 mmol). The reaction mixture was stirred at 70° C. for 15 min. After this time, the solution was cooled to RT and diluted with water (20 mL). The resulting solid was collected by filtration and the crude product was purified by reverse phase HPLC to give the title compound, 7-(4-chlorophenyl)-2-((6-chloropyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one, (110 mg, 52%), as a yellow solid. HPLC: 2.61 min; MS, M+H=449; 1H NMR (CDCl3) δ 8.62 (2H, d, J=5.0 Hz), 8.43 (1H, d, J=5.0 Hz), 8.19 (1H, s), 7.33 (1H, d, J=5.0 Hz), 7.29-7.31 (3H, m), 7.20 (2H, d, J=5.0 Hz), 7.08 (2H, d, J=10.0 Hz), 5.17 (2H, s).

reactant | 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.46 mmol, 150 mg | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(NN2)=O)C2=CC=NC=C2 | C16H10ClN5O
reactant | K2CO3 | 0.58 mmol, 80 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloro-5-(chloromethyl)pyridine | 0.556 mmol, 90 mg | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 7-(4-chlorophenyl)-2-((6-chloropyridin-3-yl)methyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 110 mg, 52% | ClC1=CC=C(C=C1)C1=C(C=2N(N=C1)C(N(N2)CC=2C=NC(=CC2)Cl)=O)C2=CC=NC=C2 | C22H14Cl2N6O
